US04847289
Step A: Preparation of 3-Bromo-2-(4-methoxyphenylthio)thiophene
To a solution of 2,3-dibromothiophene (18.1 g, 0.075 mol) in anhydrous ether (100 ml) was added dropwise over 3/4 hour 1.55M n-butyllithium in hexane (51 ml, 0.079 mol) at -70° C. under nitrogen atmosphere. The solution was stirred for an additional 1/4 hour and then solid 4-methoxyphenyl disulfide (20.9 g, 0.075 mol) was added. The mixture was stirred over night as the temperature slowly rose to ambient conditions. The tan suspension which had formed was cooled to 0° C. and water (100 ml) was added carefully. The ether layer was separated and was washed with 10% NaOH and water until the wash was neutral. After the solution was dried over Na2SO4 it was filtered and concentrated in vacuo. The crude liquid obtained was twice distilled. This procedure gave 12.9 g of a colorless oil, bp 153°-157° C. at 0.5 mm. Yield was 57%. NMR supported the structure.

reactant | 2,3-dibromothiophene | 0.075 mol, 18.1 g | BrC=1SC=CC1Br | C4H2Br2S
reactant | n-butyllithium | 1.55M | C(CCC)[Li]
reactant | hexane | 0.079 mol, 51 ml | CCCCCC | C6H14
reactant | 4-methoxyphenyl disulfide | 0.075 mol, 20.9 g | COC1=CC=C(C=C1)SSC1=CC=C(C=C1)OC | C14H14O2S2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 3-Bromo-2-(4-methoxyphenylthio)thiophene | 12.9 g, Yield was 57% | BrC1=C(SC=C1)SC1=CC=C(C=C1)OC | C11H9BrOS2
